US06348474B1
4-Benzyloxy-2-chlorobenzyl alcohol
To a solution of 4-benzyloxy-2-chlorobenzoic acid (788 mg) in tetrahydrofuran (7.9 ml) was dropwise added a boran-dimethyl sulfide complex (10.0 M, 0.6 ml) at room temperature under a nitrogen atmosphere, and the mixture was refluxed under heating for 2.5 hr. The reaction mixture was allowed to cool to room temperature and 1N hydrochloric acid (1.5 ml) was dropwise added carefully, which was followed by stirring for 30 min. Water was added to the reaction mixture and the resulting product was extracted three times with ethyl acetate. The organic layers were combined, washed successively with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the objective compound (778 mg) as a white powder.

reactant | 4-benzyloxy-2-chlorobenzoic acid | 788 mg | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)Cl | C14H11ClO3
reactant | hydrochloric acid | 1N, 1.5 ml | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran | 7.9 ml | O1CCCC1 | C4H8O
product | 4-Benzyloxy-2-chlorobenzyl alcohol | 778 mg | C(C1=CC=CC=C1)OC1=CC(=C(CO)C=C1)Cl | C14H13ClO2
